* Generated by Xic from cell dend__3jj__nest__lin_ramp.wr
.tran 1p 102n
.plot tran L4#branch L2#branch L5#branch L6#branch L3#branch L1#branch v(13) v(12) v(11) v(2)
B0 2 6 11 jjSFQ1 area=40
B1 2 7 12 jjSFQ1 area=40
B2 2 8 13 jjSFQ1 area=40
I0 0 2 pwl(0 0 0.2ns 0 0.3ns 110u)
I1 0 9 pwl(0 0 0.4ns 0 0.5ns -3.48u)
I2 0 10 pwl(0 0 1ns 0 101ns 14.62179u)
K1 L2 L3 1
K2 L4 L5 1
L0 3 2 77.5n
L1 3 4 200p
L2 9 0 200p
L3 6 0 18.75p
L4 10 0 400p
L5 7 5 12.5p
L6 8 5 12.5p
L7 5 0 1f
R0 1 0 1
R1 4 0 R=v(1)+1e-6
V0 1 0 pwl(0 1e6 0.9ns 1e6 1ns 0)
.model jjSFQ1 jj(rtype=0, cct=1, vg=2.8m, icrit=1u, cap= 5f, vshunt=0.25mV)
.save @I0[c]
.save @I1[c]
.save @I2[c]
.control
set maxdata=2560000
tran 10p 102n
write ./dend_3jj_nest_lin_ramp_Ib85.00uA_Lp20.00pH_Ip-8.441896uA.dat i(L4) v(2)
quit
.endc
